US04150240
To a solution of 2.4 g (0.04 mole) of acetic acid in 20 ml of water, were added 1.38 g (0.011 mole) of o-aminothiophenol and 3.52 g (0.01 mole) of benzylpenicilloic acid. The mixture was heated under reflux, with stirring, for 2.5 hours in a nitrogen atmosphere. The reaction mixture was then treated as described in Example 6 to give D-penicillamine as colorless crystals: yield 1.03 g (69.1%), m.p. 202°-203° C.

reactant | acetic acid | 0.04 mole, 2.4 g | C(C)(=O)O | C2H4O2
reactant | o-aminothiophenol | 0.011 mole, 1.38 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | benzylpenicilloic acid | 0.01 mole, 3.52 g | CC1(C(NC(S1)C(C(=O)O)NC(=O)CC2=CC=CC=C2)C(=O)O)C | C16H20N2O5S
solvent | water | 20 ml | O | H2O
product | D-penicillamine | N[C@H](C(C)(C)S)C(=O)O | C5H11NO2S
